US07064124B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-isopropoxybenzaldehyde
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzaldehyde (0.500 g, 1.45 mmol) was dissolved in DMF (15 ml) and after adding thereto in sequence anhydrous potassium carbonate (0.359 g, 2.60 mmol) and isopropyl bromide (0.320 g, 2.60 mmol), the solution was refluxed under heating for 3 hours. The reaction mixture was filtered, the filtrate was concentrated and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=4:1) to obtain the titled compound (0.530 g, 1.37 mmol, 94%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzaldehyde | 1.45 mmol, 0.500 g | COC=1C(=C(CC=2C=CC(=C(C=O)C2)O)C(=C(C1OC)OC)OC)C | C19H22O6
reactant | potassium carbonate | 2.60 mmol, 0.359 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromide | 2.60 mmol, 0.320 g | C(C)(C)Br | C3H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-isopropoxybenzaldehyde | 1.37 mmol, 0.530 g, 94% | COC=1C(=C(CC=2C=CC(=C(C=O)C2)OC(C)C)C(=C(C1OC)OC)OC)C | C22H28O6
